US07728005B2
To 8-amino-5-nitroisoquinoline (0.92 g) were added dichloromethane (30 ml), triethylamine (1.0 ml) and trifluoroacetic anhydride (0.83 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with dichloromethane, and washed with water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The obtained residue was washed with diethyl ether containing a small amount of ethyl acetate and dried under reduced pressure to give N-(5-nitroisoquinolin-8-yl)trifluoroacetamide (1.1 g).

reactant | 8-amino-5-nitroisoquinoline | 0.92 g | NC=1C=CC(=C2C=CN=CC12)[N+](=O)[O-] | C9H7N3O2
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.83 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(5-nitroisoquinolin-8-yl)trifluoroacetamide | 1.1 g | [N+](=O)([O-])C1=C2C=CN=CC2=C(C=C1)NC(C(F)(F)F)=O | C11H6F3N3O3
